US05714457
A reactor was charged with 20 g (0.053 mole) of 9-hydroxy-7,11-diaza-tricosane, 13 g (0.130 mole) of succinic anhydride and 300 ml of anhydrous ether, and the contents were refluxed for 5 hours. After completion of a reaction, insoluble succinic anhydride in an excess amount was removed by filtration, and an ether layer was washed with water. The ether was distilled off under reduced pressure, thereby obtaining 30 g (0.055 mole) of 4-dodecyl-8-hexyl-3,9-dioxo-6-hydroxy-4,8-diaza-1,11-undecanedicarboxylic acid as a viscous transparent liquid. After adjusted to pH 10 with sodium hydroxide, this compound gave a single peak in HPLC measurement [column: RP-18 (product of Merck Co.), eluent: methanol/water=80/20]. The 1 H-NMR data of the compound will be shown below.

reactant | 9-hydroxy-7,11-diaza-tricosane | 0.053 mole, 20 g | OC(CNCCCCCC)CNCCCCCCCCCCCC | C21H46N2O
reactant | succinic anhydride | 0.130 mole, 13 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | ether | 300 ml | CCOCC | C4H10O
product | 4-dodecyl-8-hexyl-3,9-dioxo-6-hydroxy-4,8-diaza-1,11-undecanedicarboxylic acid | 0.055 mole, 30 g | C(CCCCCCCCCCC)N(C(CCC(=O)O)=O)CC(CN(C(CCC(=O)O)=O)CCCCCC)O | C29H54N2O7
